US06706663B2
Preparation of 1-Methyl-3-[3-(4-methyl-1,3-dioxolan-2-yl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil
A mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde (0.500 g, 1.41 mmol), 1,2-propanediol (0.130 ml, 1.83 mmol), p-toluenesulfonic acid (0.0100 g, 0.0100 g, 0.071 mmol) and toluene is stirred at reflux with azeotropic removal of water overnight, cooled to room temperature, diluted with diethyl ether, washed twice with water and once with brine and dried over anhydrous magnesium sulfate. Concentration in vacuo affords a yellow oil, which is chromatographed on silica gel to afford the title compound as a yellow solid (0.510 g, 87.6%, mp 81-83° C.) which is identified by NMR spectral analysis.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde | 1.41 mmol, 0.500 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C=O)C1)=O | C14H8F3N3O3S
reactant | 1,2-propanediol | 1.83 mmol, 0.130 ml | C(C(C)O)O | C3H8O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | p-toluenesulfonic acid | 0.071 mmol, 0.0100 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-Methyl-3-[3-(4-methyl-1,3-dioxolan-2-yl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil | 0.510 g, 87.6% | CN1C(=O)N(C(=O)C=C1C(F)(F)F)C=1C=CC2=C(C(=NS2)C2OCC(O2)C)C1 | C17H14F3N3O4S
